US07645789B2
Methyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-tert-butyl-1H-indole-7-carboxylate (30 mg, 0.069 mmol) was dissolved in a mixture of 1,4-dioxane (1.5 mL) and water (2 mL) containing a magnetic star bar and lithium hydroxide (30 mg, 0.71 mmol). The resulting solution was stirred at 70° C. for 45 minutes. The crude product was then acidified with 2.6 M hydrochloric acid and extracted three times with an equivalent volume of dichloromethane. The dichloromethane extracts were combined, dried over sodium sulfate, filtered, and evaporated to dryness. The residue was dissolved in a minimum of N,N-dimethylformamide and then purified by preparative HPLC using a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-tert-butyl-1H-indole-7-carboxylic acid. ESI-MS m/z calc. 434.2, found 435.5. Retention time of 1.85 minutes. 1H NMR (400 MHz, DMSO-d6) δ 13.05 (s, 1H), 9.96 (d, J=1.6 Hz, 1H), 7.89 (d, J=1.9 Hz, 1H), 7.74 (d, J=2.0 Hz, 1H), 7.02 (d, J=1.6 Hz, 1H), 6.96-6.88 (m, 2H), 6.22 (d, J=2.3 Hz, 1H), 6.02 (s, 2H), 1.43-1.40 (m, 2H), 1.37 (s, 9H), 1.06-1.02 (m, 2H).

reactant | Methyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-tert-butyl-1H-indole-7-carboxylate | 0.069 mmol, 30 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=C(C2)C(=O)OC)C(C)(C)C | C25H26N2O5
reactant | lithium hydroxide | 0.71 mmol, 30 mg | [OH-].[Li+]
reactant | hydrochloric acid | 2.6 M | Cl | ClH
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-tert-butyl-1H-indole-7-carboxylic acid | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=C(C2)C(=O)O)C(C)(C)C | C24H24N2O5
